US05478842
Using an analogous procedure to that described in Example 3, 6-mercapto-1-methyl-2-thioxo-1,2,3,4-tetrahydroquinoline was reacted with (2S,4R)-4-(2-chlorothiazol-5-yl)-4-hydroxy-2-methyltetrahydropyran to give (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thiazol-5-yl]tetrahydropyran as a foam (0.365 g, 45%);

reactant | 6-mercapto-1-methyl-2-thioxo-1,2,3,4-tetrahydroquinoline | SC=1C=C2CCC(N(C2=CC1)C)=S | C10H11NS2
reactant | (2S,4R)-4-(2-chlorothiazol-5-yl)-4-hydroxy-2-methyltetrahydropyran | ClC=1SC(=CN1)[C@@]1(C[C@@H](OCC1)C)O | C9H12ClNO2S
product | (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thiazol-5-yl]tetrahydropyran | 0.365 g, 45% | O[C@]1(C[C@@H](OCC1)C)C1=CN=C(S1)SC=1C=C2CCC(N(C2=CC1)C)=S | C19H22N2O2S3
